data/pmechdb/original/mc_train_fold0/raw/train.txt
[B:20](F)(F)F.CC1CCC2C3=C(C=CC(=C3)C)C4(C2(CC1)OCCO4)[OH:10].CC[SiH](CC)CC>>[B-:20]([OH+:10]C12C3=C(C=C(C=C3)C)C4C1(CCC(CC4)C)OCCO2)(F)(F)F.CC[SiH](CC)CC 10=20,
[H:20][C:21]1(CC(C=C[C:22]1=[O+:23][Li-:11][N:10](C(C)C)C(C)C)(C)C)C>>[H:20][N:10](C(C)C)C(C)C.[Li:11][O:23][C:22]1=[C:21](CC(C=C1)(C)C)C 10,11=10,20;22,23=23;20,21=21,22
CN1CC[C:20](=[O:21])CC1.C1CN(CC[NH:10]1)C2=CC=C(C=C2)C3=CC4=C(C=C3)N(C5=NC=CC(=C45)Cl)S(=O)(=O)C6=CC=CC=C6.CC(=O)O>>CN1CC[C:20](CC1)([NH+:10]2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=NC=CC(=C56)Cl)S(=O)(=O)C7=CC=CC=C7)[O-:21].CC(=O)O 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C(CC=C)OC(CCC3=CC=C(C=C3)OCC4=CC=CC=C4)OC(=[O:10])C.Br[Sn:20](Br)(Br)Br>>CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C(CC=C)OC(CCC3=CC=C(C=C3)OCC4=CC=CC=C4)OC(=[O+:10][Sn-:20](Br)(Br)(Br)Br)C 10=20,
[H:20][C:21](C)(C)[C:22](=[O:23])CC.CC[O-:10]>>[H:20][O:10]CC.CC[C:22](=[C:21](C)C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][N+:21](=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3C)O)N.[OH-:10].C(COCCO)O.O>>[H:20][OH:10].CN1CCC23C4C(=[N:21]N)CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O.C(COCCO)O.O 10=20;20,21=21
[H:20][OH2+:21].CC(CC(=O)C)[O-:10]>>[H:20][O:10]C(C)CC(=O)C.[OH2:21] 10=20;20,21=21
[H:20][O+:21](C1CC2=C3CCC4COC(=O)C4(C3CCC2(OC1C(=C)C)C)C)I5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=C)C1C(CC2=C3CCC4COC(=O)C4(C3CCC2(O1)C)C)[O:21]I5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)OC(=O)C 10=20;20,21=21
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C1=CC=C(C=C1)[P+:10]([CH2:20]C2=CC=C(C=C2)C#N)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:21] 10=20;20,21=21
C[C:20](C)([NH:10]C)[OH2+:21].[Cl-]>>C[C:20](=[NH+:10]C)C.[OH2:21].[Cl-] 10=20;20,21=21
[H:20][C:21]12C=CC=C[C+:22]1OCCCC2C.[F-:10]>>[H:20][F:10].CC1CCCO[C:22]2=[C:21]1C=CC=C2 10=20;20,21=21,22
[H:20][O:21]C(=O)C(C(C)C)N.CC1=C2CCC(=O)C2(CCC1([NH:10]C(C(C)C)C(=O)O)O)C>>[H:20][NH+:10](C(C(C)C)C(=O)O)C1(CCC2(C(=C1C)CCC2=O)C)O.CC(C)C(C(=O)[O-:21])N 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C=C[C+:22]1Br)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C1)[C:21](=[C:22](C=C2)Br)[N+](=O)[O-] 10=20;20,21=21,22
C[Si:20](C)(C)[O+]1CCOC12CCC3=C(O2)C=CC=C3.C(F)(F)(F)S(=O)(=O)[O-:10].C[Si](C)(C)O[Si](C)(C)C>>C[Si-:20](C)(C)([O:10]S(=O)(=O)C(F)(F)F)[O+]1CCOC12CCC3=C(O2)C=CC=C3.C[Si](C)(C)O[Si](C)(C)C 10=20,
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OCC3CCCN3C(=O)C4=CC=CN4)[O:11]C(=O)C.CC(=O)O>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OCC3CCCN3C(=O)C4=CC=CN4.CC(=O)O 10,11=11
C[C+:20]1C2[CH:10]=[CH:11]C3C2C(CCCC31C)(C)C.O>>CC1(CCCC2(C3C1C4[C:20]2([CH:10]4[CH+:11]3)C)C)C.O 10,11=10,20
C(CO)[C:20](=[O:21])OS(=O)Cl.[Cl-:10]>>C(CO)[C:20]([O-:21])(OS(=O)Cl)[Cl:10] 10=20;20,21=21
[H:20][O+:21]=C1CCC(CC1)N2C=C(C=N2)I.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C(CO)O.O>>[H:20][N+:10]1=CC=CC=C1.C1CC(=[O:21])CCC1N2C=C(C=N2)I.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C(CO)O.O 10=20;20,21=21
[H:20][OH2+:21].C[C:10](=[CH:11]C1=CC=CC=C1)C>>[H:20][C:10](C)(C)[CH+:11]C1=CC=CC=C1.[OH2:21] 10,11=10,20;20,21=21
[H:20][N+:21]1=C(OC(C1CC2CCCCC2)([O-])OC(=O)CC)CC.CCC(=O)[O-:10].C1=CC=[NH+]C=C1>>[H:20][O:10]C(=O)CC.CCC1=[N:21]C(C(O1)([O-])OC(=O)CC)CC2CCCCC2.C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][O:21]C(=O)C(C)(C)C.CCOC(C)([O:10]CC)OCC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C.CCO>>[H:20][O+:10](CC)C(C)(OCC)OCC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C.CC(C)(C)C(=O)[O-:21].CCO 10=20;20,21=21
C[C:20](C)(C1=C(C=CC=C1)CCO)[OH2+:21]>>C[C+:20](C)C1=C(C=CC=C1)CCO.[OH2:21] 20,21=21
[H:20][O:21]C.C1COCCC1(C#N)[O-:10]>>[H:20][O:10]C1(CCOCC1)C#N.C[O-:21] 10=20;20,21=21
CC(C)OC(CCC1=CC=CC=C1)C[CH+]C[Si:20](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:10].C[Si](C)(C)O[Si](C)(C)C>>CC(C)OC(CCC1=CC=CC=C1)C[CH+]C[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C(F)(F)F.C[Si](C)(C)O[Si](C)(C)C 10=20,
[H:20][C:21]1([C:22](=[C:23]2CC3(C4CC5=C(C3(CCN4C)C[C:24]2=[NH+:25]1)C=CC=C5)O)C)C(=O)N(CC6=CC=CC=C6)C(C)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C[C:22]1=[C:21]([NH:25][C:24]2=[C:23]1CC3(C4CC5=C(C3(C2)CCN4C)C=CC=C5)O)C(=O)N(CC6=CC=CC=C6)C(C)C.O 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][O:21]S(=O)(=O)O.COC1=C(C=CC(=C1)C(=[O:10])O)[NH3+].CO.OS(=O)(=O)[O-]>>[H:20][O+:10]=C(C1=CC(=C(C=C1)[NH3+])OC)O.OS(=O)(=O)[O-:21].CO.OS(=O)(=O)[O-] 10=20;20,21=21
C[C+:20](C)CCC[C:11]1=[CH:10]C=CC=C1C#N.O.OP(=O)(O)OP(=O)(O)[O-]>>C[C:20]1(CCC[C+:11]2[CH:10]1C=CC=C2C#N)C.O.OP(=O)(O)OP(=O)(O)[O-] 10,11=10,20
C(C[OH+][S:20]([O-:10])(Cl)[Cl:21])CCl>>C(C[OH+][S:20](=[O:10])Cl)CCl.[Cl-:21] 10=20;20,21=21
CCC([O-])[O+:11](C)[Na:10]>>CCC([O-])[O:11]C.[Na+:10] 10,11=11
[H:10][CH2:11][CH:12](C)[Mg-:13]([O+:21]=[CH:20]C(C)C)Cl>>[H:10][CH:20](C(C)C)[O:21][Mg:13]Cl.C[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
C[C:20](=[OH+:21])OC.C[OH:10].[Cl-]>>C[C:20]([OH:21])([OH+:10]C)OC.[Cl-] 10=20;20,21=21
[H:10][Al-:11](CC(C)C)(CC(C)C)[O+:21]=[C:20](C)OC(=O)C>>[H:10][C:20](C)(OC(=O)C)[O:21][Al:11](CC(C)C)CC(C)C 10,11=10,20;20,21=21
